US09290459B1
tert-Butyl(4-Cyanophenyl)(5-oxo-2-(3-(trifluoromethyl)phenylamino)cyclopent-1-enyl)methylcarbamate
Sodium hydride (60% in mineral oil, 1.06 g, 26.5 mmol) is added at room temperature in portions to a mixture of 3-(3-(trifluoromethyl)phenylamino)cyclopent-2-enone (4.31 g, 17.9 mmol) and 2-methyltetrahydrofuran. After 20 min tert-butyl(4-cyanophenyl)(phenyl-sulfonyl)methylcarbamate (10.0 g, 24.2 mmol based on 90% purity) is added, and the mixture is stirred at room temperature for 1 h. Water is added and the phases are separated. The organic layer is washed with water and concentrated under reduced pressure, and the residue is recrystallized from tert-butyl methyl ether. Yield: 6.92 g. ESI mass spectrum: [M+H]+=472; Retention time HPLC: 0.76 min (X012_S01).

reactant | Sodium hydride | 26.5 mmol, 1.06 g | [H-].[Na+]
reactant | 3-(3-(trifluoromethyl)phenylamino)cyclopent-2-enone | 17.9 mmol, 4.31 g | FC(C=1C=C(C=CC1)NC1=CC(CC1)=O)(F)F | C12H10F3NO
reactant | 2-methyltetrahydrofuran | CC1OCCC1 | C5H10O
reactant | tert-butyl(4-cyanophenyl)(phenyl-sulfonyl)methylcarbamate | 24.2 mmol, 10.0 g | C(C)(C)(C)OC(N(CS(=O)(=O)C1=CC=CC=C1)C1=CC=C(C=C1)C#N)=O | C19H20N2O4S
solvent | Water | O | H2O
product | tert-Butyl(4-Cyanophenyl)(5-oxo-2-(3-(trifluoromethyl)phenylamino)cyclopent-1-enyl)methylcarbamate | C(C)(C)(C)OC(N(CC1=C(CCC1=O)NC1=CC(=CC=C1)C(F)(F)F)C1=CC=C(C=C1)C#N)=O | C25H24F3N3O3
